US06525042B1
1-[(E)-4-Chlorostyrylsulfonyl)piperazine hydrochloride
In a similar manner to Referential Example 1 except for the use of tert-butyl 1-piperazinecarboxylate and (E)-4-chlorostyrylsulfonyl chloride as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | tert-butyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | (E)-4-chlorostyrylsulfonyl chloride | ClC1=CC=C(/C=C/S(=O)(=O)Cl)C=C1 | C8H6Cl2O2S
product | 1-[(E)-4-Chlorostyrylsulfonyl)piperazine hydrochloride | Cl.ClC1=CC=C(/C=C/S(=O)(=O)N2CCNCC2)C=C1 | InChI=1S/C12H15ClN2O2S.ClH/c13-12-3-1-11(2-4-12)5-10-18(16,17)15-8-6-14-7-9-15;/h1-5,10,14H,6-9H2;1H/b10-5+;
